US07875639B2
ethyl 2-imino-3-(2-methoxyethyl)-2,3-dihydro-1,3-thiazole-4-carboxylate hydrobromide
2-Aminothiazole-4-carboxylic acid ethyl ester (17.2 g, 100 mmol) and 2-bromoethyl methyl ether (15.3 g, 110 mmol) were processed as described as described in Example 2A to afford 17.1 g (83%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.30 (t, J=7 Hz, 3 H) 3.22 (s, 3 H) 3.60 (t, J=15 Hz, 2 H) 4.32 (t, J=7 Hz, 2 H) 4.35-4.61 (m, 2 H) 7.84 (s, 1 H) 9.76 (s, 1 H); MS (DCI/NH3) m/z 231 (M+H)+.

reactant | 2-Aminothiazole-4-carboxylic acid ethyl ester | 100 mmol, 17.2 g | C(C)OC(=O)C=1N=C(SC1)N | C6H8N2O2S
reactant | 2-bromoethyl methyl ether | 110 mmol, 15.3 g | COCCBr | C3H7BrO
product | ethyl 2-imino-3-(2-methoxyethyl)-2,3-dihydro-1,3-thiazole-4-carboxylate hydrobromide | 17.1 g, 83% | Br.N=C1SC=C(N1CCOC)C(=O)OCC | InChI=1S/C9H14N2O3S.BrH/c1-3-14-8(12)7-6-15-9(10)11(7)4-5-13-2;/h6,10H,3-5H2,1-2H3;1H
